USRE029305
d. 1,3-Bis(vinylsulfonyl)propane
1,3-Bis(2-chloroethylsulfonyl)propane (74.5 g., 0.249 mole) was suspended in 2,300 ml. of ethyl acetate containing 0.12 g. hydroquinone. Triethylamine (50.7 g., 0.50 mole) was dropped in with stirring, within 10 minutes at 25° C. The resulting mixture was stirred at 25° C. for 20 hours. The amine salt was filtered off and the ethyl acetate solution evaporated at 30° C. The tan-colored solid was washed with water, then recrystallized from ethanol; yield 32.8 g. (59 percent); m.p. 60°-63° C.

reactant | 1,3-Bis(2-chloroethylsulfonyl)propane | 0.249 mole, 74.5 g | ClCCS(=O)(=O)CCCS(=O)(=O)CCCl | C7H14Cl2O4S2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | Triethylamine | 0.50 mole, 50.7 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 0.12 g | C(C)(=O)OCC | C4H8O2
product | 1,3-Bis(vinylsulfonyl)propane | C(=C)S(=O)(=O)CCCS(=O)(=O)C=C | C7H12O4S2
